US07435815B2
N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-N-ethyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with N-benzyl-N-ethylamine and 4-tert-butyl-N-(6-methoxy-pyridin-3-yl)-benzenesulfonamide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | N-benzyl-N-ethylamine | C(C1=CC=CC=C1)NCC | C9H13N
reactant | 4-tert-butyl-N-(6-methoxy-pyridin-3-yl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=NC(=CC1)OC | C16H20N2O3S
product | N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-N-ethyl-acetamide | C(C1=CC=CC=C1)N(C(CN(C=1C=NC(=CC1)OC)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O)CC | C27H33N3O4S
